US07893267B2
600 mg (3.0 mmol) of isoquinoline-3-carboxylic acid and 1200 mg (3.1 mmol) of HBTU were dissolved in 3.0 mL of DMF and 0.6 mL of DIEA and reacted with 1.1 g (3.0 mmol) of 2-amino-6-benzyloxy-1H-benzoimidazole-4-carboxylic acid benzyl ester as described in general procedure A to produce 6-benzyloxy-2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid benzyl ester. LCMS: 530 (M+1)+.

reactant | isoquinoline-3-carboxylic acid | 3.0 mmol, 600 mg | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 3.1 mmol, 1200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-6-benzyloxy-1H-benzoimidazole-4-carboxylic acid benzyl ester | 3.0 mmol, 1.1 g | C(C1=CC=CC=C1)OC(=O)C1=CC(=CC=2NC(=NC21)N)OCC2=CC=CC=C2 | C22H19N3O3
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 6-benzyloxy-2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC(=CC=2N=C(NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)OCC2=CC=CC=C2 | C32H24N4O4
